US04380628
11.1 g (0.05 mol) of 4,4-dimethyl-1-dimethylamino-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one were dissolved in 250 ml of ether. An ethereal solution of 13.1 g (0.07 mol) of cyclohexyl-magnesium bromide was added dropwise to this solution in the course of 30 minutes. The reaction mixture was subsequently stirred for one hour, 250 ml of water were added and the mixture was adjusted to a pH value of 6-7 with hydrochloric acid. The organic phase was separated off, dried and filtered and the filrate was concentrated. 10.8 g (83% of theory) of 1-cyclohexyl-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one of refractive index nD20 1.5003 were obtained.

reactant | 4,4-dimethyl-1-dimethylamino-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one | 0.05 mol, 11.1 g | CC(C(C(=CN(C)C)N1N=CN=C1)=O)(C)C | C11H18N4O
reactant | cyclohexyl-magnesium bromide | 0.07 mol, 13.1 g | C1(CCCCC1)[Mg]Br
reactant | water | 250 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-cyclohexyl-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one | 10.8 g, 83% | C1(CCCCC1)C=C(C(C(C)(C)C)=O)N1N=CN=C1 | C15H23N3O
